US08114316B2
3,4-Dibromo-thieno[2,3-b]thiophene
A mixture of 2,3,4,5-tetrabromothieno[2,3-b]thiophene (0.83 g, 1.8 mmol), zinc dust (0.29 g, 4.4 mmol), and acetic acid (30 ml) is refluxed for 2 h. The reaction mixture is poured into water, extracted with DCM, washed with aqueous saturated sodium carbonate solution, dried (Na2SO4), and concentrated under reduced pressure. The product is purified by recrystallisation from hot methanol to obtain white fibrous crystals (389 mg, 72%). M/Z (298, t, M+). Found C, 24.5; H, 0.8. Calc. for C6H2Br2S2C, 24.2; H, 0.7. 1H NMR (300 MHz, CDCl3) δ 7.32 (s, 2H). 13C NMR (300 MHz, CDCl3) δ 139.35, 137.42, 126.44, 102.96.

reactant | 2,3,4,5-tetrabromothieno[2,3-b]thiophene | 1.8 mmol, 0.83 g | BrC1=C(C2=C(SC(=C2Br)Br)S1)Br | C6Br4S2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.4 mmol, 0.29 g | [Zn] | Zn
solvent | water | O | H2O
product | 3,4-Dibromo-thieno[2,3-b]thiophene | 389 mg, 72% | BrC1=CSC=2SC=C(C21)Br | C6H2Br2S2
